US06573270B1
4-(tert-butyl)-N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(2-[{5-chloro-2-pyrimidinyl}oxy]ethoxy)-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide
Sodium hydride (16 mg, 60% suspension in mineral oil) was added to a stirred solution of 4-(tert-butyl)-N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(2-hydroxyethoxy)-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide (105 mg) (Preparation 28) in anhydrous THF (5 ml) at room temperature under a nitrogen atmosphere and the resulting mixture was stirred for 10 minutes at room temperature. DMF (2 ml) was added to the reaction mixture, followed by 5-chloro-2-(methylsulphonyl)pyrimidine (39 mg) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was poured into an aqueous solution of 1.0M citric acid (50 ml) and ether (50 ml) and the aqueous phase was separated. The organic phase was washed with water (30 ml) and then dried over magnesium sulfate, filtered and concentrated under pressure. The orange/brown residue was purified by chromatography on a Biotage Flash 12i cartridge at 10 psi using 20% ethyl acetate/hexane as eluant to give the title compound as a pale yellow oil (90 mg).

reactant | Sodium hydride | 16 mg | [H-].[Na+]
reactant | 4-(tert-butyl)-N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(2-hydroxyethoxy)-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide | 105 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NN1CCO[Si](C)(C)C(C)(C)C)OCCO)C1=CC=C(C=C1)C | C30H45N3O5SSi
reactant | 5-chloro-2-(methylsulphonyl)pyrimidine | 39 mg | ClC=1C=NC(=NC1)S(=O)(=O)C | C5H5ClN2O2S
reactant | citric acid | 1.0M, 50 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(tert-butyl)-N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(2-[{5-chloro-2-pyrimidinyl}oxy]ethoxy)-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide | 90 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NN1CCO[Si](C)(C)C(C)(C)C)OCCOC1=NC=C(C=N1)Cl)C1=CC=C(C=C1)C | C34H46ClN5O5SSi
